US06124313
C2. 8-(2-Amino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine
Starting from 8-(2-tert-butoxycarbonylamino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine (3.6 g), trifluoroacetic acid (15 ml) and anisole (5 ml) according to the procedure described for Example C1 (Method B) gives, after chromatography on silica gel (eluent: toluene/dioxane=9:1) and crystallization from ethyl acetate/cyclohexane, 2.3 g (76%) of the title compound of m.p. 230-234° C.

reactant | 8-(2-tert-butoxycarbonylamino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine | 3.6 g | C(C)(C)(C)OC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C22H26N4O3
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 8-(2-Amino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine | NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C17H18N4O
